US04561882
Ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate (680 mg) is reduced using NaBH4 (60 mg) in ethanol (10 ml) to yield ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate

reactant | Ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate | 680 mg | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(CC(=O)OCC)=O)C)C=C1 | C19H17ClF3NO5
reactant | NaBH4 | 60 mg | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(CC(=O)OCC)O)C)C=C1 | C19H19ClF3NO5
